US07199147B2
Under nitrogen, 4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-ol (200 mg, 0.861 mmol) was dissolved in N,N-dimethylformamide (5 ml), followed by adding thereto 4-fluoronitrobenzene (100 μl, 0.947 mmol) and potassium carbonate (179 mg, 1.29 mmol), and the resulting mixture was stirred at 50° C. for 1 hour. After the reaction solution was cooled to room temperature, a 1N-aqueous hydrochloric acid solution (6 ml) and methanol (3 ml) were added thereto and the resulting mixture was stirred at room temperature for 2 hours. The mixture was adjusted to pH 9 with a saturated aqueous sodium hydrogencarbonate solution and extracted twice with ethyl acetate/toluene=3/1. The combined extract layer was washed with water and then a saturated aqueous sodium chloride solution, dried by the addition of anhydrous magnesium sulfate, and then filtered. The solvent was distilled off under reduced pressure and the resulting concentration residue was purified by a silica gel column chromatography (eluent: n-hexane/ethyl acetate=3/1) to obtain 4-methyl-5-(4-nitrophenoxy)-1H-indazole (192 mg, yield 82.8%) as a yellow solid.

reactant | 4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-ol | 0.861 mmol, 200 mg | CC1=C2C=NN(C2=CC=C1O)C1OCCCC1 | C13H16N2O2
reactant | 4-fluoronitrobenzene | 0.947 mmol, 100 μl | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 1.29 mmol, 179 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | methanol | 3 ml | CO | CH4O
product | 4-methyl-5-(4-nitrophenoxy)-1H-indazole | 192 mg, yield 82.8% | CC1=C2C=NNC2=CC=C1OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11N3O3
